US07098356B2
2-bromoindene.
A 500 mL flask was charged with 25.5 g (120 mmol) of trans-2-bromo-1-indanol, 1 g of toluenesulfonic acid and 350 mL of toluene. This was capped with a Dean-Stark trap and heated to reflux for two hours at which time the system was cooled to room temperature and the volatiles removed in vacuo to leave a dark oil. The residue was taken up into hexanes and eluted through a silica pad using hexanes. Removal of the volatiles in vacuo gave 22.5 g (96 percent) of a light yellow oil.

reactant | trans-2-bromo-1-indanol | 120 mmol, 25.5 g | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
reactant | toluenesulfonic acid | 1 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromoindene | 22.5 g, 96 percent | BrC=1CC2=CC=CC=C2C1 | C9H7Br
